US05331006
Preparation of O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosine
The title compound was prepared from methyl O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate (0.40 g, 0.001 mmol) and lithium hydroxide monohydrate (0.066 g, 0.001 mol, 1.5 eq) using the procedure described in Example 47, Step C. MS: 388.0 (MH+); 387.0 (M+).

reactant | methyl O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate | 0.001 mmol, 0.40 g | COC1=CC=C(CC(NC(=O)OC2C3CC4CC(CC2C4)C3)(C(=O)OC)C)C=C1 | C23H31NO5
reactant | lithium hydroxide monohydrate | 0.001 mol, 0.066 g, 1.5 eq | O.[OH-].[Li+]
product | O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosine | COC1=CC=C(CC(NC(=O)OC2C3CC4CC(CC2C4)C3)(C(=O)O)C)C=C1 | C22H29NO5
